US05789404
A mixture of methyl 5-chloro-1-(4-fluorophenyl)-3-hydroxy-1H-indol-2-carboxylate (200 g, 0.62 mol), methyl 2-bromoacetate (125 g, 0.81 mol), K2CO3 (112 g, 0.81 mol) and acetone (2.0 L) was refluxed for 18 h. The mixture was cooled to room temperature and filtered, and the solvents were evaporated in vacuo. To the remaining oil (270 g) methanol (1.5 L) and 3N aqueous KOH (0.6 L) was added. After reflux for 1 h, the solution was cooled to room temperature and acidified by concentrated hydrochloric acid. The product thus precipitated was filtered off and dissolved in ethyl acetate and dried (Na2SO4). Evaporation of the solvents afforded 2-[2-carboxy-5-chloro-1-(4-fluorophenyl)-3-1H-indolyloxy]acetic acid (240 g) as an oil which was decarboxylated without further purification. A mixture of the crude dicarboxylic acid, copper (15 g) and N-methyl-2-pyrrolidone was refluxed for 1.5 h. The mixture was cooled to room temperature and water (2.0 L) was added. The product thus precipitated was filtered off and dissolved in ethyl acetate (1.5 L). The solution was washed with brine (3×1 L) and dried (Na2 SO4). Evaporation of the solvents afforded the crude 2-[5-chloro-1-(4-fluorophenyl)-3-1H-indolyloxy]acetic acid (223 g) which was dissolved in dry diethyl ether (1.5 L). The thus formed solution was added to a suspension of lithium aluminum hydride (70 g, 1.9 mol) in dry diethyl ether (1.0 L) over 45 min. After reflux for additional 0.5 h, the reaction mixture was cooled to 0° C. and carefully treated with water (70 ml), 4N aqueous NaOH and then water (300 mL). The reaction mixture was filtered and dried (Na2SO4). Evaporation of the solvents afforded crystalline title compound (110 g, 55%). An analytical sample was recrystallized from diethyl ether: mp 118°-120° C.; 1H NMR (CDCl3) δ 2.35 (broad s, 1 H),4.0 (t, 2 H), 4.15 (t, 2 H), 6.85 (s, 1 H), 7.10 (broad d, 1 H), 7.15 (t, 2 H), 7.40 (dd, 2 H), 7.65 (broad s, 1 H). Anal. (C16H13ClF--NO2) C, H, N.

reactant | methyl 5-chloro-1-(4-fluorophenyl)-3-hydroxy-1H-indol-2-carboxylate | 0.62 mol, 200 g | ClC=1C=C2C(=C(N(C2=CC1)C1=CC=C(C=C1)F)C(=O)OC)O | C16H11ClFNO3
reactant | methyl 2-bromoacetate | 0.81 mol, 125 g | BrCC(=O)OC | C3H5BrO2
reactant | K2CO3 | 0.81 mol, 112 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 2.0 L | CC(=O)C | C3H6O
product | 2-[2-carboxy-5-chloro-1-(4-fluorophenyl)-3-1H-indolyloxy]acetic acid | 240 g | C(=O)(O)C=1N(C2=CC=C(C=C2C1OCC(=O)O)Cl)C1=CC=C(C=C1)F | C17H11ClFNO5
